Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
Exercise Echocardiography

 
History of Present Illness:
___ pmh severe known CAD s/p CABG and multiple caths with 
chronic medicaly managed angina, ___, HTN, DM who presents with 
atypical chest pain.  
.  
Patient has history of CAD and is s/p 3 vessel CABG (LIMA-LAD,  
SVG-OM1, SVG-D1) by Dr. ___ on ___. On ___ 
___ admitted to ___ for NSTEMI and had cath which showed 
occluded graft to a small diagonal branch, as well as a 70% 
stenosis in the LAD stent and a 70-80% stenosis at the LCx 
origin. She was medically managed with uptitration of her BB and 
Imdur and initiation of losartan for better BP control. She 
often has angina at rest and at her recent baseline takes 
nitroglycerin SL approximately twice weekly.  
.  
Since ___ she complains of frequent chest pains which are 
different from her chronic angina as she usually ahs chest 
pressire but currently feels more like "needle pricks", pain is 
also more persistent and she does not have significant relief 
with nitro. It is also worse with deep breathing and with 
pressure on anterior chest. She states it does not feel like the 
pain she had before her CABG. Today pain was ___ and remained 
continous. It was accompanied by some SOB w/o diaphoresis, 
lighthededness, nausea, v or palpitations. She denies paroxysmal 
nocturnal dyspnea, orthopnea, ankle edema, palpitations, syncope 
or presyncope.  
.  
She says that she has been feeling more cold than usual recently 
nut denies any fevers or chills. She has a chronic productive 
cough. She denies any GI, GU complaints.  
.  
Of note patient currently being work up for memeory loss and 
cognitive impairment.  
.  
ED Course 19:33 4 97.9 69 117/76 16 96% ra  
- EKG: sinus @ 68, lateral depressions similar to prior, no new 
ischemic chgs. Labs unremarkable, trop neg X1, CXR non acute.  
 
Past Medical History:
1. CARDIAC RISK FACTORS: (-)Diabetes, (+)Dyslipidemia, (+)HTN  
2. CARDIAC HISTORY:  
-Coronary artery disease  
-Diastolic congestive heart failure  
-CABG: CABG x 3 (Off pump coronary artery bypass graft x3, left  

internal mammary artery to left anterior descending artery and  
saphenous vein grafts to diagonal, and obtuse marginal arteries) 
 
-PERCUTANEOUS CORONARY INTERVENTIONS: BMS to proximal LAD  
___, DES to mid LAD ___, DES to edge ISR of mid LAD DES and  
stenosis distal to stent ___, DES to OM1, ___  
-PACING/ICD:none  
Morbid obesity.  
COPD  
GERD  
Right rotator cuff injury/bursitis  
Migraines  
Depression  
DJD  
Hemorrhoids  
Rosacea  

 
Social History:
___
Family History:
She was a ward of the ___ and does not know her family.  

 
Physical Exam:
ADMISSION EXAM:
VS: T=98.1 BP=150/69 HR=71 RR=18 O2 sat=97RA  
GENERAL: Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with JVP of 5 cm.  
Chest: significant diffuse TTP over anterior chest wall.  
CARDIAC: s/p CABG RRR No m/r/g. No thrills, lifts. No S3 or S4.  

LUNGS: coarse left basilar crackles which may be consistent with 
pleural process seen on CXR, otherwise good air movement with no 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominal bruits.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: papable throughout  
Neuro: no gross deficits.  

DISCHARGE EXAM:
VS: T=98.6 BP=113-180/60-82 ___ RR=20 O2 sat=99RA  
GENERAL: Oriented x3. Mood appropriate with flat affect.  NAD  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  
Left cornea with scar tissue medial to ___.
NECK: Supple with flat JVP.  No thyromegaly.
CHEST: TTP over sternum
CARDIAC: Distant heart sounds. No m/r/g. No thrills, lifts. No 
S3 or S4.  
LUNGS: CTAB no wheezing, rales, rhonchi  
ABDOMEN: Obese, soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominal bruits.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: 2+ radial/DPP
Neuro: AOX3. non-focal exam.
 
Pertinent Results:
ADMISSION LABS:

___ 09:03PM BLOOD WBC-7.7 RBC-3.89* Hgb-12.6 Hct-36.1 
MCV-93 MCH-32.5* MCHC-34.9 RDW-12.3 Plt ___
___ 10:47PM BLOOD ___ PTT-28.2 ___
___ 09:03PM BLOOD Glucose-413* UreaN-19 Creat-1.1 Na-136 
K-3.6 Cl-95* HCO3-28 AnGap-17
___ 09:03PM BLOOD ALT-12 AST-12 AlkPhos-62 TotBili-0.5
___ 09:03PM BLOOD Lipase-80*
___ 09:03PM BLOOD cTropnT-<0.01
___ 07:50AM BLOOD CK-MB-1 cTropnT-<0.01
___ 07:50AM BLOOD Calcium-8.7 Phos-3.7 Mg-1.8

CXR ___:
FINDINGS:
 
Frontal and lateral views of the chest.  There is persistent 
blunting of left costophrenic angle laterally suggestive of 
underlying scarring or pleural thickening.  The lungs are 
otherwise clear.  Cardiomediastinal silhouette is within normal 
limits.  Median sternotomy wires and mediastinal clips again 
noted.
 
IMPRESSION:
 
No acute cardiopulmonary process.

Exercise Stress ___:
IMPRESSION: Atypical sudden onset of chest tightness with 
non-specific ST segment changes to achieved low workload. 
Resting mild systolic hypertension with a blunted hemodynamic 
response to exercise. Echo report sent separately.

Exercise Echo ___:
IMPRESSION: Poor functional exercise capacity. Non-specific ECG 
changes in the absence of 2D echocardiographic evidence of 
inducible ischemia to achieved low workload. Resting mild 
systolic hypertension with a blunted hemodynamic response to 
physiologic stress. 

DISCHARGE LABS:

___ 07:50AM BLOOD WBC-7.0 RBC-3.80* Hgb-12.2 Hct-35.5* 
MCV-94 MCH-32.2* MCHC-34.5 RDW-11.9 Plt ___
___ 07:25AM BLOOD Creat-0.9 Na-135 K-3.9 Cl-99 HCO3-26 
AnGap-14
___ 07:25AM BLOOD Phos-4.3 Mg-1.___SSESSMENT AND PLAN: ___ pmh severe known CAD s/p CABG with 
chronic  angina, dCHF, HTN, DM who presents with chest pain 
concerning for crescendo angina.

ACTIVE ISSUES:
  
Chest pain: patient with high coronary risk, however recent cat 
6 months ago did not reveal interveneable disease.  Fact that 
she is having reproducability on physical exam suggests non 
cardiac cause, however symptoms are complicated by patient's 
history of cognitive impairment.  Given known CAD with 70% 
stenosis stress echo was performed to assess for functional 
abnormality with exertion.  No ECHO abnormalities were noted 
although pt reported atypical chest pain with stress.  She was 
continued on home ASA, plavix, statin, nitrate and metoprolol 
while in-house.  She was monitored on tele without any alarms.  
She was discharged home after a negative stress to follow-up 
with her PCP and ___.

CHRONIC ISSUES: 
 
# Diastolic CHF (EF>50%): No signs of fluid overload currently.  
Not on baseline diuresis.  She was continued on home BB and ___ 
and monitored daily for signs of decompensation and required no 
diuresis.
 
# Diabetes:  HISS in-house, she was also continued on home 
insulin regimen with 80 lantus QHS  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 25 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. carisoprodol *NF* 250 mg Oral qhs spasm 
Take 1 tablet po at bedtime PRN muscle spasm 
4. Pantoprazole 40 mg PO Q24H 
5. traZODONE 50 mg PO HS 
6. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN pain 
7. Atorvastatin 40 mg PO DAILY 
8. Nitroglycerin SL 0.4 mg SL PRN chest pain 
9. Metoprolol Succinate XL 200 mg PO DAILY 
10. Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY 
11. Clopidogrel 75 mg PO DAILY 
12. Fluticasone Propionate 110mcg 2 PUFF IH BID 
13. Other 90 Units Bedtime
Insulin SC Sliding Scale using HUM InsulinMax Dose Override 
Reason: Levemir- 90 U QHS per pharmacy list

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 40 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
5. Other 90 Units Bedtime
Insulin SC Sliding Scale using HUM InsulinMax Dose Override 
Reason: Levemir- 90 U QHS per pharmacy list

6. Losartan Potassium 25 mg PO DAILY 
7. Nitroglycerin SL 0.4 mg SL PRN chest pain 
8. Pantoprazole 40 mg PO Q24H 
9. traZODONE 50 mg PO HS 
10. carisoprodol *NF* 250 mg Oral qhs spasm 
11. Metoprolol Succinate XL 200 mg PO DAILY 
12. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN pain 
13. Isosorbide Mononitrate (Extended Release) 90 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Atypical Chest Pain

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Mental Status: Confused - sometimes.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___-

You came to the hospital with chest pain.  You had lab chests 
and EKG's that were reassuring that you were not having a heart 
attack.  While you were here, you had a stress test which did 
not suggest any evidence of worsening coronary artery disease.  
Your chest pain was reproducible with touching your chest, which 
is not typical of coronary artery disease pain.  This likely is 
related to musculoskeletal pain.  
Some changes have been made to your medication list.  Please 
followup with your cardiologist for further medication changes.
 
Followup Instructions:
___